US07534797B2
The mixture of 3-cyclobutyl-1-iodoimidazo[1,5-a]pyrazin-8-ylamine (62.8 mg 0.200 mmol), 2-pyridin-2-yl-7-(4,4,5,5-tetramethyl-[2,3,2]dioxaborolan-2-yl)-quinoline(79.1 mg, 1.2 eq.), Pd(PPh3)4 (14.0 mg, 6% eq.) and Na2CO3 (53.0 mg, 2.5 eq.) in DMF (5 ml)/H2O (1 ml) was flushed with N2 for 30 min at rt and heated at 80° C. for 16 h under N2. After that time, the reaction mixture was treated with H2O (20 ml), and was then extracted with CH2Cl2 (2×25 ml). The extracts were washed with H2O (2×20 ml), and dried over MgSO4. After the solid was filtered off and the solvent was removed in vacuo, the crude yellow oil (105 mg) was purified by MS directed purification system to obtain a yellow solid of 3-cyclobutyl-1-(2-pyridin-2-ylquinolin-7-yl)-imidazo[1,5-a]pyrazin-8-ylamine; 1H NMR (CDCl3, 400 MHz) δ 2.05-2.09 (m, 1H), 2.15-2.22 (m, 1H), 2.48-2.56 (m, 2H), 2.62-2.72 (m, 2H), 3.85 (quintet, 1H, J=8.4 Hz), 5.27 (s, 2H), 7.09-7.10 (d, 1H, J=4.8 Hz), 7.15-7.16 (d, 1H, J=4.8 Hz), 7.36-7.39 (m, 1H), 7.86-7.90 (m, 1H), 7.97(m, 2H), 8.31-8.33 (d, 1H, J=8.8 Hz), 8.43 (s, 1H), 8.59-8.61 (d, 1H, J=8.8 Hz), 8.67-8.69 (d, 1H, J=7.6 Hz), 8.75-8.76 (d, 1H, J=4.0 Hz); MS(ES+): 393.4 (M+1), tR(polar-5 min)=2.2 min.

reactant | 3-cyclobutyl-1-iodoimidazo[1,5-a]pyrazin-8-ylamine | 0.200 mmol, 62.8 mg | C1(CCC1)C1=NC(=C2N1C=CN=C2N)I | C10H11IN4
reactant | 2-pyridin-2-yl-7-(4,4,5,5-tetramethyl-[2,3,2]dioxaborolan-2-yl)-quinoline | 79.1 mg, 1.2 eq. | N1=C(C=CC=C1)C1=NC2=CC(=CC=C2C=C1)B1CC(C(O1)(C)C)(C)C | C21H23BN2O
reactant | Na2CO3 | 53.0 mg, 2.5 eq. | C(=O)([O-])[O-].[Na+].[Na+]
reactant | H2O | 1 ml | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 14.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-cyclobutyl-1-(2-pyridin-2-ylquinolin-7-yl)-imidazo[1,5-a]pyrazin-8-ylamine | C1(CCC1)C1=NC(=C2N1C=CN=C2N)C2=CC=C1C=CC(=NC1=C2)C2=NC=CC=C2 | C24H20N6
